US06965029B2
A 100 ml autoclave was charged under argon with 9.4 g (50 mmol) of 7,8-epoxy-6-oxo-octanoic acid methyl ester, with 0.4 g of platinum(IV) oxide catalyst, and with 50 ml of ethyl acetate. The hydrogenation was carried out for 16 hours at 20° C., at a constant pressure of 50 bar pure H2 and with intensive stirring. When the reaction was complete, the catalyst was filtered off and the solvent was distilled off using a rotary evaporator. Purification of the residue by column chromatography (silica gel, ethyl acetate/n-hexane) yielded 6.3 g (67%) of 8-hydroxy-6-oxo-octanoic acid methyl ester.

reactant | 7,8-epoxy-6-oxo-octanoic acid methyl ester | 50 mmol, 9.4 g | COC(CCCCC(C1CO1)=O)=O | C9H14O4
catalyst | platinum(IV) oxide | 0.4 g | [Pt](=O)=O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 8-hydroxy-6-oxo-octanoic acid methyl ester | 6.3 g, 67% | COC(CCCCC(CCO)=O)=O | C9H16O4
